US06432993B1
t-Butyl N-{5-[4-(1-adamantyl)phenoxy]-2-nitrophenyl}-N-methylcarbamate
In a similar manner to that described in Reference Example 6, a reaction was carried out using 4-(1-adamantyl)phenol (2.28 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (2.87 g), sodium hydride (55 wt. %, 0.44 g) and anhydrous N,N-dimethylformamide (40 ml) and the reaction mixture was purified to give the title compound (4.30 g).

reactant | 4-(1-adamantyl)phenol | 2.28 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(C=C2)O | C16H20O
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.87 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.44 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-{5-[4-(1-adamantyl)phenoxy]-2-nitrophenyl}-N-methylcarbamate | 4.30 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OC=3C=CC(=C(C3)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C2 | C28H34N2O5
